US08030311B2
Step 60.2: (4-Imidazo[4,5-b]pyridin-3-yl-2-methyl-phenyl)-acetic acid methyl ester
A mixture of [4-(3-amino-pyridin-2-ylamino)-2-methyl-phenyl]-acetic acid methyl ester (1.92 g, 7.08 mmol) and triethyl orthoformate (30 mL, 181 mmol, 26 equiv) is stirred for 3 h at 150° C. The resulting mixture is allowed to cool to rt and concentrated in vacuo to provide the title compound: ES-MS: 282.1 [M+H]+; tR=3.39 min (System 1).

reactant | [4-(3-amino-pyridin-2-ylamino)-2-methyl-phenyl]-acetic acid methyl ester | 7.08 mmol, 1.92 g | COC(CC1=C(C=C(C=C1)NC1=NC=CC=C1N)C)=O | C15H17N3O2
reactant | triethyl orthoformate | 181 mmol, 30 mL, 26 equiv | C(OCC)(OCC)OCC | C7H16O3
product | (4-Imidazo[4,5-b]pyridin-3-yl-2-methyl-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)N1C=NC=2C1=NC=CC2)C)=O | C16H15N3O2
